US07285558B2
7-isobutyl-5-methyl-3-(3-methylthien-2-yl)-2-(1-naphthylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was made following the procedure described above, starting with 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 1-naphthaldehyde, followed by 3-methylthiophene-2-carbaldehyde. Mass: 458.87 (M+H).

reactant | 6-hydrazino-1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
reactant | 1-naphthaldehyde | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | 3-methylthiophene-2-carbaldehyde | CC1=C(SC=C1)C=O | C6H6OS
product | 7-isobutyl-5-methyl-3-(3-methylthien-2-yl)-2-(1-naphthylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C(C(C)C)N1C(N(C(C=2C1=NN(C2C=2SC=CC2C)CC2=CC=CC1=CC=CC=C21)=O)C)=O | C26H26N4O2S
